US06734318B2
In an illustrative example, a coupling reaction was conducted between (E)-2-bromostyrene (PhCH═CHBr) and phenylzinc iodide (PhZnI) promoted by a fluorous palladium catalyst. The catalyst was prepared from Pd2(dba)3 and the known fluorous phosphine (p-C6F13CH2CH2C6H4)3P. A mixture of the catalyst in FC-72 was contacted in a U-tube with a first organic phase containing (E)-2-bromostyrene in acetonitrile and a second organic phase containing phenylzinc iodide in THF. After one day at ambient temperature, each organic phase was removed and subjected to standard aqueous workup. Unreacted (E)-2-bromostyrene was recovered from the first organic phase while the coupled reaction product, (E)-stilbene (PhCH═CHPh) was isolated from the second organic phase.

reactant | (E)-2-bromostyrene | C1=CC=C(C=C1)/C=C/Br | C8H7Br
reactant | phenylzinc iodide | [I-].C1(=CC=CC=C1)[Zn+]
catalyst | palladium | [Pd] | Pd
solvent | FC-72 | C(C(C(C(F)(F)F)(F)F)(F)F)(C(C(F)(F)F)(F)F)(F)F | C6F14
solvent | acetonitrile | C(C)#N | C2H3N
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-stilbene | C1(=CC=CC=C1)\C=C\C1=CC=CC=C1 | C14H12
